US06498170B2
N-[2-Benzyloxy-5-(2-dibenzylamino-1-hydroxy-ethyl)-phenyl]-methanesulfonamide:
Sodium borohydride (0.37 g, 9.7 mmol) was added in portions to a stirred solution of N-[2-benzyloxy-5-(2-dibenzylamino-1-oxo-ethyl)-phenyl]-methanesulfonamide (1.0 g, 1.9 mmol) in 20 mL of methanol/tetrahydrofuran (5:2) at room temperature and the resulting solution was stirred for 2 hours. Methylene chloride was added and the resulting solution was washed with aqueous sodium bicarbonate, dried over MgSO4 and the solvent was removed. Recrystallization from methylene chloride/hexanes gave the title compound as a crystalline solid; 1H NMR (300 MHz, CDCl3) δ 2.58 (d, J=6.7 Hz, 2 H), 2.86 (s, 2 H), 2.92 (s, 2 H), 3.55 (d, J=13.5 Hz, 2 H), 3.70 (d, J=13.5 Hz, 2 H), 4.11 (s, 1 H), 4.64 (t, J=6.7 Hz, 1 H), 5.10 (s, 2 H), 6.92 (d, J=8.5 Hz, 1 H), 7.00 (dd, J=8.5, 2.0 Hz, 1 H), 7.20-7.50 (m, 16 H), 7.89 (brs, 1 H); MS (ES) m/z: 517.1 (M++H); HRMS Calcd. for C30H32N2O4S(M+): 516.2083. Found: 516.2074.

reactant | Sodium borohydride | 9.7 mmol, 0.37 g | [BH4-].[Na+]
reactant | N-[2-benzyloxy-5-(2-dibenzylamino-1-oxo-ethyl)-phenyl]-methanesulfonamide | 1.9 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)NS(=O)(=O)C | C30H30N2O4S
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol tetrahydrofuran | 20 mL | CO.O1CCCC1
product | N-[2-Benzyloxy-5-(2-dibenzylamino-1-hydroxy-ethyl)-phenyl]-methanesulfonamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)O)NS(=O)(=O)C | C30H32N2O4S
